US06353006B1
1-Cyclohexyl-1-ethylamine was converted to N-(2-hydroxyethyl)-N-(1-cyclohexyl-1-ethyl)amine according to Method B5a. The alcohol was reacted with SOCl2 according to Method B7a to give N-(2-chloroethyl)-N-(1-cyclohexyl -1-ethyl)ammonium chloride. The chloroethylamine was reacted with 2-methyl-4-nitrophenyl isothiocyanate according to Method C1a to give 2-(2-methyl-4-nitrophenylimino)-3-(1-cyclohexyl-1-ethyl)-1,3-thiazolidine.

reactant | 1-Cyclohexyl-1-ethylamine | C1(CCCCC1)C(C)N | C8H17N
reactant | N-(2-hydroxyethyl)-N-(1-cyclohexyl-1-ethyl)amine | OCCNC(C)C1CCCCC1 | C10H21NO
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
product | N-(2-chloroethyl)-N-(1-cyclohexyl -1-ethyl)ammonium chloride | [Cl-].ClCC[NH2+]C(C)C1CCCCC1 | InChI=1S/C10H20ClN.ClH/c1-9(12-8-7-11)10-5-3-2-4-6-10;/h9-10,12H,2-8H2,1H3;1H
